US07968556B2
SYNTHESIS OF 2-(2-HYDROXYETHYLAMINO)-9-(2-METHOXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
2-(2-Hydroxyethylamino)-9-(2-methoxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxamide Ethyl 2-(2-hydroxyethylamino)-9-(2-methoxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxylate (0.400 g) and ammonia gas in methanol (10 mL) were reacted according to General Procedure G and purified using reverse-phase preparative HPLC (5-60% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 30 min) to afford the title compound (0.015 g, 8%). 1H NMR (400 MHz, DMSO-d6) δ 10.49 (s, 1H), 7.86 (s, 1H), 7.81 (s, 1H), 7.48 (t, J=6.79, 1H), 7.36 (d, J=7.99, 1H), 7.20 (d, J=8.39, 1H), 7.07 (t, J=7.59, 1H), 6.78 (s, 1H), 4.50 (t, J=5.59, 1H), 3.72 (s, 3H), 3.44 (q, J=6.39, 2H), 3.31 (m, 2H); MS (ESI) m/z 345.2 [M+1]+; mp 157-160° C.

reactant | 2-(2-Hydroxyethylamino)-9-(2-methoxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxamide Ethyl 2-(2-hydroxyethylamino)-9-(2-methoxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxylate | 0.400 g | C(C)OC(=O)C1=C2NC(N(C2=NC(=N1)NCCO)C1=C(C=CC=C1)OC)=O.OCCNC1=NC(=C2NC(N(C2=N1)C1=C(C=CC=C1)OC)=O)C(=O)N
reactant | ammonia | N | H3N
solvent | methanol | 10 mL | CO | CH4O
product | 2-(2-HYDROXYETHYLAMINO)-9-(2-METHOXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 0.015 g, 8% | OCCNC1=NC(=C2NC(N(C2=N1)C1=C(C=CC=C1)OC)=O)C(=O)N | C15H16N6O4
